US08802864B2
methyl (4-[4-(1-benzofuran-5-yl)phenyl]-3-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)acetate
To a solution of 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (55 mg, 0.128 mmol) in N,N-dimethylformamide (1 mL) in a 5 mL microwaveable vial was added potassium carbonate (60 mg, 0.434 mmol, 3.3 eq) and methyl chloroacetate (25 mg, 0.227 mmol, 1.7 eq). The vial was capped and purged with nitrogen gas, and the reaction mixture was stirred for 16 h at 80° C. Analysis by LC/MS displayed the reaction had gone to completion. The reaction mixture was cooled to room temperature and poured into a mixture of dichloromethane and water. The organic layer was separated. The aqueous layer was washed with dichloromethane. The organic extracts were combined and washed 3× with a dilute brine solution. The organic layer was separated, dried over sodium sulfate, filtered, and concentrated in vacuo. The crude product was purified by reverse phase HPLC (LUNA C-18: 30×50 mm column; 20-55% acetonitrile w/0.1% TFA/water w/0.1% TFA). The product fractions were neutralized with the addition of saturated aq sodium bicarbonate, combined, and extracted with dichloromethane. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to afford the title compound (37 mg, 57%). MS(ES)+ m/e 501.1 [M+H]+.

reactant | 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.128 mmol, 55 mg | O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(NN=C2C[C@H]2CN(CC2)C(=O)C2CC2)=O | C25H24N4O3
reactant | potassium carbonate | 0.434 mmol, 60 mg, 3.3 eq | C([O-])([O-])=O.[K+].[K+]
reactant | methyl chloroacetate | 0.227 mmol, 25 mg, 1.7 eq | ClCC(=O)OC | C3H5ClO2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | methyl (4-[4-(1-benzofuran-5-yl)phenyl]-3-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)acetate | 37 mg, 57% | O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(=NN(C2=O)CC(=O)OC)C[C@H]2CN(CC2)C(=O)C2CC2 | C28H28N4O5
